US08232306B2
5-Bromo-2-propoxy-3H-imidazole-4-carbaldehyde
5-Bromo-2-propoxy-3-(2-trimethylsilanylethoxymethyl)-3H-imidazole-4-carbaldehyde (43.6 g, 120 mmol) was cooled at 0° C. in ice. TFA (200 mL, 2 mol) was added and the mixture was stirred at 0° C. for 15 minutes, then warmed to room temperature. After 20 minutes, the mixture was concentrated under reduced pressure and redissolved in EtOAc (300 mL). The organic was washed with saturated bicarbonate (200 mL), saturated aqueous NaCl, dried over MgSO4 and concentrated under reduced pressure to produce the title compound (28.6 g) as a yellow solid, which was used without further purification.

reactant | 5-Bromo-2-propoxy-3-(2-trimethylsilanylethoxymethyl)-3H-imidazole-4-carbaldehyde | 120 mmol, 43.6 g | BrC1=C(N(C(=N1)OCCC)COCC[Si](C)(C)C)C=O | C13H23BrN2O3Si
reactant | TFA | 2 mol, 200 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Bromo-2-propoxy-3H-imidazole-4-carbaldehyde | 28.6 g | BrC1=C(NC(=N1)OCCC)C=O | C7H9BrN2O2
